US03983246
B. Preparation of 3,4-dichlorobenzohydroximoyl chloride.
A cold solution of 18.9 g of 3,4-dichlorobenzaldoxime in 150 ml of chloroform was treated with chlorine gas until no more chlorine was absorbed. The green mixture was stirred for 1 hour at 5°, then heated under reflux for 30 minutes, when the solid went into solution and the clear green solution changed to yellow. The solution was evaporated under reduced pressure to give a white solid, m.p. 104°-106°, which was used without further purification.

reactant | 3,4-dichlorobenzaldoxime | 18.9 g | ClC=1C=C(C=NO)C=CC1Cl | C7H5Cl2NO
reactant | chlorine | ClCl | Cl2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-dichlorobenzohydroximoyl chloride | ClC=1C=C(C(=NO)Cl)C=CC1Cl | C7H4Cl3NO
